### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Eigenspace/Zero): results on endomorphisms with eigenvalue 0

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Eigenspace/Zero.lean [hunk 1]
```diff
@@ -0,0 +1,197 @@
...
+  is the trailing degree of its characteristic polynomial
+
+-/
+
+variable {K M : Type*} [Field K] [AddCommGroup M] [Module K M] [Module.Finite K M]
+variable (φ : Module.End K M)
+
+open FiniteDimensional Module.Free Polynomial
+
+lemma IsNilpotent.charpoly_eq_X_pow_finrank (h : IsNilpotent φ) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Eigenspace/Zero.lean:36]: I'm not convinced it's worth actually implementing this but FWIW, this result requires only `[CommRing K] [IsDomain K]` rather than `Field K` as long as you also add `[Module.Free K M]` (the proof needs no modification).

File: Mathlib/LinearAlgebra/Eigenspace/Zero.lean [hunk 2]
```diff
@@ -0,0 +1,197 @@
...
+    φ.charpoly = X ^ finrank K M := by
+  rw [← sub_eq_zero]
+  apply IsNilpotent.eq_zero
+  rw [finrank_eq_card_chooseBasisIndex]
+  apply Matrix.isNilpotent_charpoly_sub_pow_of_isNilpotent
+  exact h.map (LinearMap.toMatrixAlgEquiv (chooseBasis K M))
+namespace LinearMap
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Eigenspace/Zero.lean:43]:
```suggestion

namespace LinearMap
```

File: Mathlib/LinearAlgebra/Eigenspace/Zero.lean [hunk 3]
```diff
@@ -0,0 +1,197 @@
...
+  (hasEigenvalue_zero_tfae φ).out 2 5
+
+open Module.Free in
+lemma not_hasEigenvalue_zero_tfae :
+    List.TFAE [
+      ¬ Module.End.HasEigenvalue φ 0,
+      ¬ IsRoot (minpoly K φ) 0,
+      constantCoeff φ.charpoly ≠ 0,
+      LinearMap.det φ ≠ 0,
+      ker φ ≤ ⊥,
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Eigenspace/Zero.lean:124]:
```suggestion
      ker φ = ⊥,
```

**Review by ocfnash — APPROVED** [review]
Just nitpicks; this is great!

bors d+

**Comment by ocfnash** [comment]
Don't forget to merge master given that #12359 is now there.

File: Mathlib/LinearAlgebra/Eigenspace/Zero.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Eigenspace/Zero.lean]: Done
